US07105544B2
N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-4-FLUOROPHENYL]BUTANAMIDE
Example 25 was prepared from diphenylacetyl chloride and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}butanamide according to the procedures described in Scheme 8: 1H NMR (400 MHz, CDCl3) δ 7.71 (s, 1H), 7.39 (dd, 1H, J=2.8, 6.8 Hz), 7.33–7.21 (m, 11H), 7.00 (t, 1H, J=5.6 Hz), 6.92 (t, 1H, J=9.2 Hz), 4.89 (s, 1H), 3.38 (dd, 2H, J=6.4, 12.0 Hz), 2.91–2.88 (m, 2H), 2.74 (m, 1H), 2.36 (t, 2H, J=6.4 Hz), 2.29 (t, 2H, J=7.6 Hz), 1.97 (dt, 2H, J=2.4, 11.6 Hz), 1.77–1.62 (m, 8H), 0.97 (t, 3H, J=7.2 Hz); ESMS m/e: 516.3 (M+H)+.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}butanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(CCC)=O | C18H28FN3O
product | N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-4-FLUOROPHENYL]BUTANAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(CCC)=O)C1=CC=CC=C1 | C32H38FN3O2
